US04443448
3-(4'-Fluorophenyl)-6-methyl-1-indanol
A solution of 225 grams of 3-(4'-fluorophenyl)-6-methyl-1-indanone in 2.3 liters of methanol was treated with 90 grams of sodium borohydride while cooling and stirring and keeping the temperature below 20 degrees Centigrade.

reactant | 3-(4'-fluorophenyl)-6-methyl-1-indanone | 225 grams | FC1=CC=C(C=C1)C1CC(C2=CC(=CC=C12)C)=O | C16H13FO
reactant | sodium borohydride | 90 grams | [BH4-].[Na+]
solvent | methanol | 2.3 liters | CO | CH4O
product | 3-(4'-Fluorophenyl)-6-methyl-1-indanol | FC1=CC=C(C=C1)C1CC(C2=CC(=CC=C12)C)O | C16H15FO
